US08283354B2
A solution of triethylamine (507 μL, 3.64 mmol) and benzyl((R)-pyrrolidin-3-yl)methylcarbamate (0.47 g, 2 mmol) in CH2Cl2 was added dropwise to a solution of 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol (0.5 g, 1.82 mmol) in CH2Cl2 (20 mL). The reaction was stirred at room temperature for 3 h. After quenching the reaction with water, the aqueous phase was extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 5-10% EtOAc in CH2Cl2 yielded benzyl((S)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate. LC/MS: m/z 473.1 (M+H)+ at 2.91 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | triethylamine | 3.64 mmol, 507 μL | C(C)N(CC)CC | C6H15N
reactant | benzyl((R)-pyrrolidin-3-yl)methylcarbamate | 2 mmol, 0.47 g | C(C1=CC=CC=C1)OC(NC[C@H]1CNCC1)=O | C13H18N2O2
reactant | 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol | 1.82 mmol, 0.5 g | ClC1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)O | C14H8ClFN2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | benzyl((S)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate | C(C1=CC=CC=C1)OC(NC[C@H]1CN(CC1)C1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)O)=O | C27H25FN4O3
